### PR TITLE
[Merged by Bors] - chore(RingTheory/RamificationInertia/RamificationIdx): swap primes on `ramificationIdx` and `ramificationIdx'`

### PR DESCRIPTION
**Pull request by tb65536**
There's still a bit of work left to do, but I think now is a reasonable time to swap which of `ramificationIdx` and `ramificationIdx'` is primed.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/RamificationInertia/Ramification.lean [hunk 1]
```diff
@@ -361,23 +418,27 @@ theorem ramificationIdx_algebra_tower [IsDedekindDomain S] [IsDedekindDomain T]
   exact add_eq_left.mpr <| Decidable.byContradiction fun h ↦ hntq <| hcp.trans_le <|
     sup_le hg <| le_of_dvd <| dvd_of_mem_normalizedFactors <| Multiset.count_ne_zero.mp h
 
-@[deprecated (since := "2026-03-25")] alias ramificationIdx_tower := ramificationIdx_algebra_tower
```
Comment (tb65536) [inline Mathlib/NumberTheory/RamificationInertia/Ramification.lean:364]: Had to remove this deprecation to make way for the new theorem `ramificationIdx_tower` with the same name.

File: Mathlib/RingTheory/RamificationInertia/Ramification.lean [hunk 2]
```diff
@@ -117,115 +129,136 @@ variable {R S T : Type*} [CommRing R] [CommRing S] [CommRing T]
...
       (Algebra.TensorProduct.quotIdealMapEquivTensorQuot (Localization.AtPrime r)
         ((r.under R).map (algebraMap R (Localization.AtPrime q))))
-  rw [ramificationIdx'_def, ramificationIdx'_eq (r.under R), ramificationIdx'_eq q,
+  rw [ramificationIdx_def, ramificationIdx_eq (r.under R), ramificationIdx_eq q,
     f.toLinearEquiv.length_eq, IsLocalRing.length_baseChange, ENat.toNat_mul,
     ← Localization.AtPrime.map_eq_maximalIdeal, map_map, ← IsScalarTower.algebraMap_eq]
 
+@[deprecated (since := "2026-07-01")] alias ramificationIdx'_tower' := ramificationIdx_tower'
+
 /-- See `ramificationIdx'_tower'` for a version that only assumes local flatness. -/
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/RamificationInertia/Ramification.lean]: Can you check the name here?

File: Mathlib/NumberTheory/RamificationInertia/Valuation.lean [hunk 3]
```diff
@@ -42,19 +42,20 @@ variable [Algebra B L] [IsFractionRing B L] [IsScalarTower A B L]
 variable (v : HeightOneSpectrum A) (w : HeightOneSpectrum B) [w.asIdeal.LiesOver v.asIdeal]
 
 theorem intValuation_liesOver (x : A) :
-    v.intValuation x ^ (v.asIdeal.ramificationIdx w.asIdeal) =
+    v.intValuation x ^ (v.asIdeal.ramificationIdx' w.asIdeal) =
       w.intValuation (algebraMap A B x) := by
-  rcases eq_or_ne x 0 with rfl | hx; · simp [ramificationIdx_ne_zero_of_liesOver w.asIdeal v.ne_bot]
+  rcases eq_or_ne x 0 with rfl | hx;
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/RamificationInertia/Valuation.lean]:
```suggestion
  rcases eq_or_ne x 0 with rfl | hx
```

**Review by riccardobrasca — COMMENTED** [review]
I guess that the fact names don't align perfectly (unprimed theorems refer to the primed version or the other way round) is OK for now. Thanks for doing this, it's probably not fun.

bors d+
